US07414047B2
4-(1-Methyl-heptyl)-piperazine-1-carboxylic acid tert-butyl ester
Prepared from 2-octanone and piperazine-1-carboxylic acid tert-butyl ester.

reactant | 2-octanone | CC(CCCCCC)=O | C8H16O
reactant | piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
product | 4-(1-Methyl-heptyl)-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C(CCCCCC)C | C17H34N2O2
